US07772234B2
Step E: Preparation of 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-methyl-quinoline-6-carboxylic acid cyclopropylmethoxyamide:
The title compound is prepared from 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-methyl-quinoline-6-carboxylic acid in the same manner described in step J for Example 1 using O-cyclopropylmethyl-hydroxylamine in place of O-(2-vinyloxy-ethyl)-hydroxylamine.

reactant | 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-methyl-quinoline-6-carboxylic acid | BrC1=CC(=C(C=C1)NC1=C(C=C2C(=CC=NC2=C1F)C)C(=O)O)F | C17H11BrF2N2O2
reactant | O-cyclopropylmethyl-hydroxylamine | C1(CC1)CON | C4H9NO
product | 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-methyl-quinoline-6-carboxylic acid cyclopropylmethoxyamide | C1(CC1)CONC(=O)C=1C=C2C(=CC=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)C | C21H18BrF2N3O2
